US07625908B2
N-{(1S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}acetamide
The procedure described in Example 3 was repeated using picolyl chloride hydrochloride and N-[(1S)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]acetamide to give the title compound in 63% yield; NMR spectrum (DMSO-d6) 1.21 (s, 3H), 1.73 (s, 3H), 4.12-4.30 (m, 2H), 4.33-4.43 (m, 1H), 5.29 (s, 2H), 7.15-7.25 (m, 2H), 7.35 (t, 2H), 7.51-7.59 (m, 2H), 7.72 (t, 1H), 7.87 (t, 1H), 7.99 (s, 1H), 8.14 (d, 1H), 8.48 (s, 1H), 8.59 (d, 1H), 9.80 (s, 1H); Mass spectrum MH+ 478.0.

reactant | picolyl chloride hydrochloride | Cl.N1=C(C=CC=C1)CCl
reactant | N-[(1S)-2-({4-[(3-chloro-4-hydroxyphenyl)amino]quinazolin-5-yl}oxy)-1-methylethyl]acetamide | ClC=1C=C(C=CC1O)NC1=NC=NC2=CC=CC(=C12)OC[C@H](C)NC(C)=O | C19H19ClN4O3
product | N-{(1S)-2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]-1-methylethyl}acetamide | 63% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OC[C@H](C)NC(C)=O | C25H24ClN5O3
